US06114390
b) 4-[[[[3-(Dimethylamino)propyl]amino]carbonyl]methyl]benzenemethanamine
Prepared analogously to Example 6c) from 4-[[[[3-(dimethylamino)propyl]amino]carbonyl]methyl]benzonitrile by catalytic hydrogenation in the presence of Raney nickel and ammonia in a quantitative yield. Colourless, highly viscous oil, which was used in the next step without purification.

reactant | 4-[[[[3-(dimethylamino)propyl]amino]carbonyl]methyl]benzonitrile | CN(CCCNC(=O)CC1=CC=C(C#N)C=C1)C | C14H19N3O
reactant | ammonia | N | H3N
catalyst | Raney nickel | [Ni] | Ni
product | 4-[[[[3-(Dimethylamino)propyl]amino]carbonyl]methyl]benzenemethanamine | quantitative yield | CN(CCCNC(=O)CC1=CC=C(C=C1)CN)C | C14H23N3O
